US05948820
2-Amino-2-ethyl-4-[4-(1-hydroxyoctyl)phenyl]butanol
In working example 77, 2-acetamido-2-ethyl-4-(4-octanoylphenyl)butyl acetate obtained by using ethylmalonic acid diethyl ester instead of propylmalonic acid diethyl ester, is treated in the same manners as working example 79 and then working example 80 to give the subject compound.

reactant | 2-acetamido-2-ethyl-4-(4-octanoylphenyl)butyl acetate | C(C)(=O)OCC(CCC1=CC=C(C=C1)C(CCCCCCC)=O)(CC)NC(C)=O | C24H37NO4
reactant | ethylmalonic acid diethyl ester | C(C)OC(C(C(=O)OCC)CC)=O | C9H16O4
product | 2-Amino-2-ethyl-4-[4-(1-hydroxyoctyl)phenyl]butanol | NC(CO)(CCC1=CC=C(C=C1)C(CCCCCCC)O)CC | C20H35NO2
